US08404692B2
6,8-Dimethyl-7-{2-[4-(1H-tetrazol-5-yl)-phenylamino]-pyrimidin-4-yl}-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one
Prepared by reaction of 7-(2-fluoropyrimidin-4-yl)-6,8-dimethyl-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one with 4-(1H-tetrazol-5-yl)-phenylamine.

reactant | 7-(2-fluoropyrimidin-4-yl)-6,8-dimethyl-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one | FC1=NC=CC(=N1)C=1C(=C2N(CCNC2=O)C1C)C | C13H13FN4O
reactant | 4-(1H-tetrazol-5-yl)-phenylamine | N1N=NN=C1C1=CC=C(C=C1)N | C7H7N5
product | 6,8-Dimethyl-7-{2-[4-(1H-tetrazol-5-yl)-phenylamino]-pyrimidin-4-yl}-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one | CC1=C(C(=C2N1CCNC2=O)C)C2=NC(=NC=C2)NC2=CC=C(C=C2)C2=NN=NN2 | C20H19N9O
